### PR TITLE
[Merged by Bors] - chore: manually deprime `cases'`, part 2

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
Together with #22075 this should completely remove uses of `cases'` from `Mathlib`, `Archive` and `Counterexamples`.

See [Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/The.20plan.20to.20remove.20cases'/near/500654728).

### CODE REVIEW

**Comment by Parcly-Taxel** [comment]
@j-loreaux can you review this now?

File: Mathlib/Data/Seq/Seq.lean [hunk 1]
```diff
@@ -336,24 +337,32 @@ theorem eq_of_bisim (bisim : IsBisimulation R) {s₁ s₂} (r : s₁ ~ s₂) : s
...
+          rw [destruct_nil, destruct_cons] at this
+          exact False.elim this
+        | cons x' s' =>
+          intro _ this
+          rw [destruct_cons, destruct_cons] at this
+          rw [head_cons, head_cons, tail_cons, tail_cons]
+          obtain ⟨h1, h2⟩ := this
+          constructor
+          · rw [h1]
+          · exact h2
```
Comment (jcommelin) [inline Mathlib/Data/Seq/Seq.lean:365]: I don't really like how this is becoming significantly longer.

Comment (Parcly-Taxel) [reply Mathlib/Data/Seq/Seq.lean:365]: @urkud [said on Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/The.20plan.20to.20remove.20cases'/near/500222566) that it's OK if there are no shorter options.

Comment (Parcly-Taxel) [reply Mathlib/Data/Seq/Seq.lean:365]: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/cases'.20in.20Data.2FSeq.2FSeq

Comment (Parcly-Taxel) [reply Mathlib/Data/Seq/Seq.lean]: @j-loreaux I've committed what should be a better replacement, based on [this](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/cases'.20in.20Data.2FSeq.2FSeq/near/502693277).

**Comment by j-loreaux** [comment]
@Parcly-Taxel when you fix the merge conflict, I'll merge this.

**Comment by Parcly-Taxel** [comment]
@j-loreaux ready.

**Comment by j-loreaux** [comment]
bors merge
